Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
foot pain, worsening leg swelling, leg ulcer
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Mr. ___ is a ___ year old male with a PMHx of possibly HCV and
a chronic LLE shin ulcer who presents with multiple concerns
including lack of healing of the LLE ulcer, two small new 
ulcers,
bilateral foot pain and difficulty walking, and worsening RLE
edema.

The patient first developed a LLE ulcer around ___. He
apparently had surgery for the ulcer at ___ on ___. He had
limited follow up and was eventually told his insurance did not
cover his needed follow up, although he states he has not had
___ for several years now. He was doing dressing changes
at home for some time, until he was hospitalized at the ___ in ___ for about 3 weeks. He was
discharged from there 10 days ago. The exact circumstances of
this hospitalization are unclear. It sounds as though the 
patient
was on antibiotics out of concern for an infected ulcer and also
had a kidney biopsy for proteinuria. Since his discharge, he has
had worsening bilateral foot pain and trouble walking. He was
brought in by his older sister, who decided not to return to ___
because she thought we would get to the bottom of whatever
disease was causing his ulcer. She is ulcer concerned that there
are two additional, small ulcers on his left shin.

The patient denies any recent fevers or chills. He reports his
LLE is stable and slightly better than it was before he got
antibiotics at ___. He does not have any significant warmth or
tenderness. He has normal sensation in both feet.

In the ED here, the patient had normal vital signs and was found
to have a lactate of 2.8, Cr 1.8, Hgb 9.5. Bilateral lower
extremity ultrasounds did not show a DVT. He was given IV fluids
and IV clindamycin. Blood cultures were sent. I discussed the
case with the ED physicians and it was felt that he was at high
risk for clinical decompensation given his poor access to 
medical
care without a PCP or insurance.

ROS: Pertinent positives and negatives as noted in the HPI.
Otherwise a 10-point ROS was reviewed and is negative.

 
Past Medical History:
The patient denies any significant past medical history. ED
reports a history of HCV. He has had two prior hernia repairs.

From review of ___ Summary from
hospitalization ___ - ___:
Cryoglobulinemia
Hepatitis C
Latent TB
Hepatitis B exposure (core positive)
Lower leg ulcer
Transaminitis
Epistaxis
Acute blood loss anemia secondary to renal biopsy bleed
Glomerulonephritis (MPGN pattern)
Normocytic anemia
 
Social History:
___
Family History:
Father with polycystic kidney disease. Also with family history
of diabetes.
 
Physical Exam:
Admission Exam
VITALS: 98.3, 71, 128/62, 16, 98% RA
GENERAL: Alert and in no apparent distress
EYES: Anicteric, no conjunctival injection, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.
Oropharynx without visible lesions, erythema or exudate.
CV: Heart regular, no murmur, no S3, no S4.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-tender in all quadrants, non-distended. No
rebound or guarding.
GU: No suprapubic fullness or tenderness to palpation.
MSK: Moves all extremities, warm and well perfused, 2+ DP pulses
bilaterally. 2+ bilateral ___ edema.
SKIN: Large ulcer with small central area of sparing on the left
shin, with surrounding hyperpigmentation and erythema, slightly
warm but non-tender. No active purulent drainage from the large
ulcer. Two smaller ulcers slightly promixal and medical to the
large ulcer also without purulence.
NEURO: Alert, oriented, face symmetric, gaze conjugate with EOM,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate mood and affect

Discharge Exam
VITALS: Afebrile and vital signs stable (see eFlowsheet)
___ 0721 Temp: 98.1 PO BP: 114/53 HR: 62 RR: 17 O2 sat: 96% 
O2 delivery: RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.  
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular.  No JVD. 
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel 
sounds present.  No HSM
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: Extremities warm and well-perfused, with the left lower 
extremity having the chronic changes previously described.  The 
posterior left proximal calf with some fluctuance. Leg currently 
bandaged. 
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
___ 07:55AM BLOOD WBC-3.4* RBC-2.67* Hgb-8.7* Hct-26.5* 
MCV-99* MCH-32.6* MCHC-32.8 RDW-17.2* RDWSD-62.2* Plt ___
___ 07:55AM BLOOD Plt ___
___ 07:55AM BLOOD Glucose-91 UreaN-14 Creat-1.6* Na-143 
K-3.4* Cl-107 HCO3-25 AnGap-11
___ 06:00AM BLOOD ALT-19 AST-41* AlkPhos-99 TotBili-0.8
___ 07:55AM BLOOD TotProt-7.5 Calcium-7.6* Phos-2.8 Mg-1.9
___ 06:00AM BLOOD Cryoglb-NEGATIVE
___ 06:00AM BLOOD VitB12-894 Hapto-<10*
___ 07:35AM BLOOD calTIBC-191* Ferritn-480* TRF-147*
___ 07:55AM BLOOD %HbA1c-4.3 eAG-77
___ 06:00AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-POS*
___ 06:00AM BLOOD ANCA-NEGATIVE B
___ 06:00AM BLOOD RheuFac-29* ___ Titer-1:320* 
CRP-36.3*
___ 07:55AM BLOOD PEP-POLYCLONAL IgG-3771* IgA-684* 
IgM-380* IFE-MONOCLONAL
___ 06:00AM BLOOD IgG-3508* IgA-646* IgM-352*
___ 06:00AM BLOOD C3-62* C4-10
___ 07:55AM BLOOD HIV Ab-NEG
___ 06:00AM BLOOD HCV Ab-POS*
___ 06:00AM BLOOD HBV VL-NOT DETECT HCV VL-4.6*
___ 11:03AM BLOOD Lactate-2.8*
___ 06:15AM BLOOD QUANTIFERON-TB GOLD-Test    - POSITIVE  
___ 06:00AM BLOOD SED RATE-Test      
___ 06:00AM BLOOD CH50 - FROZEN-Test      
 
Brief Hospital Course:
___ man w/PMHx recent diagnosis cryoglobulinemia w/Hep C, 
chronic kidney disease, chronic LLE ulcer, who presented with 
bilateral foot pain and difficulty walking, and worsening RLE 
edema.  The patient is from the ___ area, he had this left 
lower extremity leg wounds for approximately one year, and felt 
that maybe going to ___ would help them heal better. So 
he took a bus cross country a month or two ago. There he sought 
care at ___ and had a ___ hospital stay in 
___, at which time he was seen by five consulting services 
diagnosed with the list of issues noted above, and they were in 
the process of trying to figure out how to treat him and get him 
rituximab, when he decided to leave ___ and take a bus back 
cross-country. He then came to the ___ ED primarily concerned 
about his leg ulcers

Brief Summary of hospitalization and pending steps:
ASSESSMENT
___ man w/PMHx recent diagnosis cryoglobulinemia w/Hep C, 
chronic kidney disease, chronic LLE ulcer, bilateral foot pain 
and difficulty walking, and worsening RLE edema.

PLAN by PROBLEMS

#Overall plan of care:
We have now addressed all critical in-hospital tests, and will 
thus be discharging Mr. ___ to outpatient care today. He has 
follow-up appt's w/ a new PCP (___ HC), ID, Renal, and 
Hepatology, and his care will be continued into the outpatient 
setting. 

#Cryoglobulinemia w/suspected multiple complications
-Rheumatology, ID, Nephrology and Derm consulted
-pending: SPEP, UPEP, Derm bx, Hep C genotype

Relevant lab results: 
- Quantiferon Gold POSITIVE
- Hep B core positive and VL neg
- Hep C Ab and VL positive, 
- HIV negative
- ___ + 1:320, ANCA neg, Cryoglobulins NEGATIVE, ESR >130, RF 
elevated, CRP elevated, 
- C3 low, C4 normal, CH50 <10 (nl: ___
- immunoglobulins (IgA, IgM, IgG elevated)

#Stage 3 kidney disease, suspected due to cryoglobulinemic 
glomerulonephritis
- Likely HCV-cryo-associated kidney insult
- monitor BUN, creatinine, urine output, avoid nephrotoxins
- Defer renal tx until after ID-related tx managed, given that 
renal tx will likely need immune-suppression

#Bilat lower extremity edema
#LLE ulcers
#Possible LLE posteromedial proximal calf phelgmons
- Pending: Derm biopsy pathology and cultures
- Pending: ___ drainage from LLE collection, cultures
- Skin / topical therapy per #Wound Care (below)
- ___ nurse to visit home for skin care

#Hep C with apparent cirrhosis w/small ascites, splenomegaly
#Possible hepatic lesion (2.9-cm right hepatic lobe lesion)
- Pending: HCV Genotype
- could also account for pancytopenia
- avoid hepatotoxins (will adjust acetaminophen dosing lower) 
and avoid NSAIDs
- Will require outpt Hepatology f/u

#Pancytopenia
- could be related to cirrhosis, cryoglobulinemia, kidney 
disease
- ferritin quite elevated so not Fe-deficiency, B12 normal, 
retic is inappropriately low, haptoglobin low but bilirubin 
normal
- just monitoring for now

#Murmur: Audible murmur, not changing. Unclear if old vs new 
given lack of prior records. 
- TTE w/o veg / evidence of endocarditis seen.
- No e/o endocarditis at this time

#Latent TB
#Hep B exposure w/neg DNA
#Positive Quant Gold testing
- Quant Gold from ___ POSITIVE
- ID wishes to defer TB tx w/ INH at this time, and will f/u w/ 
pt in clinic for HCV and LTBI treatment planning

#Difficulty/pain with ambulation, and bilat foot pain
- B/l foot x-rays normal on ___
- Possible contribution of cryoglobulinemia assoc neuropathy vs. 
arthralgias
- Has been seen by ___, no need for device or rehab

#FEN
- regular diet, replete electrolytes PRN (goal K >=4.0, Mg 
>=2.0)
- has gotten intermittent potassium chloride for low potassiums

#Communication
- Daily communication with sister ___ (who is the HCP)

#Wound care provided detailed recommendations:

Topical Therapy /Recommendation:
1.Commercial wound cleanser or normal saline to cleanse wounds. 
Pat the tissue dry with dry gauze.
2.Apply moisture barrier ointment to the periwound tissue with 
each dressing change.
3. Left Lower leg Anterior & most distal pink Ulcers: Apply 
Xeroform gauze over pink tissue, then cover with Small Soft 
sorb. Wrap with Kling, secure with medipore tape. Change daily.
4. Left lower lateral leg, superior ulcer with yellow slough: 
-Cover with a small piece of Melgisorb Ag Then cover with a 
small soft sorb. Wrap with Kling, secure with medipore tape. 
Change daily.
5.Apply Spiral Ace Wraps to only ->LLE. From just above toes to 
just below knees  
Before patient gets OOB or after elevating ___ for ___ 
minutes prior to application.
**PLEASE REMOVE ace wraps at bedtime. 
6.Elevate ___ while sitting.
7. Due to Chronicity of Left LLE wounds, would consult 
Dermatology for biopsy to help determine etiology.
8. Patient should f/u with ___ and or the ___ 
___ upon discharge ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cryoglobulinemia
Stage III kidney disease, thought to be cryoglobulinemia 
glomerulonephritis (MPGN)
Left lower extremity ulcers and fluid collections
Hepatitis C with apparent cirrhosis with small ascites and 
splenomegaly
Pancytopenia
Bilateral lower extremity edema
Latent tuberculosis
Hepatitis B exposure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for evaluation of your left lower leg 
ulcers/wounds, your renal failure, and your blood count 
abnormalities.  Upon discussion with you and review of the 
records from ___ we discovered that you have been 
recently diagnosed with cryoglobulinemia, which can cause injury 
to blood vessels throughout the body (including in the kidney, 
and skin, and bone marrow, leading to your symptoms).

Your cryoglobulinemia is caused by your body's immune system 
reacting to your hepatitis C and hepatitis B viral infections.  
The treatment for cryoglobulinemia is immune suppression, which 
can be done with steroids and/or rituximab.  The risks of 
immunosuppression are that infections (like your latent 
tuberculosis, hepatitis B and C) could become worse if they are 
not properly treated before the immunosuppression is begun.

It also appears that your hepatitis C may have injured your 
liver and caused some cirrhosis (scarring of the liver which can 
lead to serious complications if it gets worse).  It will be 
important to see a Hepatologist (liver specialist) to help with 
this.

You were seen by the Rheumatology, and Infectious Disease teams 
to help coordinate your care.  In addition our social worker 
worked to try and help you get to and from your outpatient 
appointments.  You were seen by the wound care nurse, 
___, and surgery, for your leg wounds....

It will be important to follow-up with quite a few doctors and 
___ as noted below.  We recommend you try to keep your 
care within the ___ network.  If you see 
healthcare professionals outside that network it will become 
very difficult to coordinate your care.
 
Followup Instructions:
___